US09145414B2
A 4 N hydrochloric acid-dioxane solution (8 mL) was added to tert-butyl(5-(pyrimidin-2-yl)thiophen-3-yl)carbamate obtained in the above-described Step (544 mg), and the reaction solution was stirred at room temperature for 90 minutes. The solvent was evaporated under vacuum to obtain 5-(pyrimidin-2-yl)thiophen-3-amine hydrochloride as a brown solid.

reactant | hydrochloric acid dioxane | 4 N, 8 mL | Cl.O1CCOCC1
reactant | tert-butyl(5-(pyrimidin-2-yl)thiophen-3-yl)carbamate | C(C)(C)(C)OC(NC1=CSC(=C1)C1=NC=CC=N1)=O | C13H15N3O2S
product | 5-(pyrimidin-2-yl)thiophen-3-amine hydrochloride | Cl.N1=C(N=CC=C1)C1=CC(=CS1)N | InChI=1S/C8H7N3S.ClH/c9-6-4-7(12-5-6)8-10-2-1-3-11-8;/h1-5H,9H2;1H
